US09034866B2
Synthesis of (±)-Ethyl 3-ethynyl-3-hydroxycyclobutane-1-carboxylate
This compound was prepared according to a procedure similar to that described in Procedure A. To a 100-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed bromo(ethynyl)magnesium (0.5M in THF, 50 mL, 1.20 equiv). This was followed by the addition of a solution of ethyl 3-oxocyclobutane-1-carboxylate (3.0 g, 21.10 mmol, 1.00 equiv) in tetrahydrofuran (3 mL) dropwise with stirring at −70° C. in 15 min. The resulting solution was stirred for 30 min at −70° C. The reaction was then quenched by the addition of 10 mL of sat. aq. ammonium chloride. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). This resulted in 2.6 g (66%) of ethyl 3-ethynyl-3-hydroxycyclobutane-1-carboxylate as light yellow oil (single undetermined diastereomer).

reactant | bromo(ethynyl)magnesium | 0.5M, 50 mL, 1.20 equiv | Br[Mg]C#C
reactant | ethyl 3-oxocyclobutane-1-carboxylate | 21.10 mmol, 3.0 g, 1.00 equiv | O=C1CC(C1)C(=O)OCC | C7H10O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (±)-Ethyl 3-ethynyl-3-hydroxycyclobutane-1-carboxylate | C(#C)C1(CC(C1)C(=O)OCC)O | C9H12O3
